US07109192B2
2b) 3-(but-2-ynyl)-2-methylsulphonyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
A solution of 500 mg of potassium permanganate in 20 ml of water was added dropwise to a solution of 600 mg (1.60 mmol) of 3-(but-2-ynyl)-2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 30 ml glacial acetic acid, with stirring, at ambient temperature. After three hours at ambient temperature a sodium hydrogen sulphite solution was added dropwise until the reaction mixture was virtually decolourised again. Then it was diluted with approx. 50 ml of water and saturated with sodium chloride. The crude product precipitated was suction filtered and purified by column chromatography (aluminium oxide; eluant:dichloromethane).

reactant | potassium permanganate | 500 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 3-(but-2-ynyl)-2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 1.60 mmol, 600 mg | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)CC2=CC=CC1=CC=CC=C21)SC | C21H18N4OS
reactant | sodium hydrogen sulphite | S(=O)(O)[O-].[Na+]
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | water | approx. 50 ml | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
product | 3-(but-2-ynyl)-2-methylsulphonyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)CC2=CC=CC1=CC=CC=C21)S(=O)(=O)C | C21H18N4O3S
